US07858781B2
(1) Step A: 4-Benzyloxy-indole-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester (103)
4-Benzyloxy-1H-indole-2-carboxylic acid ethyl ester (50 g, 169.3 mmol) is dissolved in 500 ml of ethyl acetate and DMAP (141 mg, 3.4 mmol) is added. Then the mixture is cooled to 0° C. and BOC2O (36.9 g, 169.3 mmol), dissolved in 20 ml of ethyl acetate, is added dropwise. After completion of addition the reaction mixture is allowed to stir over night at room temperature. The mixture is washed with 1M tartaric acid and brine. The organic layers are dried over sodium sulfate and evaporated

reactant | 4-Benzyloxy-1H-indole-2-carboxylic acid ethyl ester | 169.3 mmol, 50 g | C(C)OC(=O)C=1NC2=CC=CC(=C2C1)OCC1=CC=CC=C1 | C18H17NO3
reactant | BOC2O | 169.3 mmol, 36.9 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
catalyst | DMAP | 3.4 mmol, 141 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 4-Benzyloxy-indole-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | CCOC(=O)C=1N(C2=CC=CC(=C2C1)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C23H25NO5
